US08466186B2
(a) 2,3,4-Trifluoro-N-methyl-6-nitroaniline
A solution of MeNH2 in THF (50.7 mL, 2 M, 101 mmol) was added dropwise to a solution of 1,2,3,4-tetrafluoro-5-nitrobenzene (9.88 g, 50.7 mmol) in THF (200 mL) at −20° C. The mixture was stirred at −20° C. for 1.5 h, concentrated, washed with brine and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. Crystallization from EtOAc/PE gave the sub-title compound. Yield: 8.5 g (81%).

reactant | MeNH2 | CN | CH5N
reactant | 1,2,3,4-tetrafluoro-5-nitrobenzene | 50.7 mmol, 9.88 g | FC1=C(C(=C(C(=C1)[N+](=O)[O-])F)F)F | C6HF4NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 101 mmol, 2 M, 50.7 mL | C1CCOC1 | C4H8O
product | 2,3,4-Trifluoro-N-methyl-6-nitroaniline | FC1=C(NC)C(=CC(=C1F)F)[N+](=O)[O-] | C7H5F3N2O2
